US07601726B2
To a room temperature slurry of 6-(2,4-Difluoro-phenoxy)-1H-pyrazolo[3,4-d]pyrimidin-3-ylamine (170 mg, 0.646 mmol), acetone (0.95 mL, 12.9 mmol) acetic acid (0.037 mL) and THF (6.5 mL) was added NaBH(OAc)3 (547 mg, 2.58 mmol). The reaction mixture was heated to reflux for 18 hours, then cooled to room temperature and diluted with ether. This mixture was washed with water and brine, then dried over MgSO4, filtered, and concentrated under reduced pressure. The residue was chromatographed through silica (10%-50% EtOAc in hexanes) to give 105 mg of [6-(2,4-difluoro-phenoxy)-1H-pyrazolo[3,4-d]pyrimidin-3-yl]-isopropyl-amine, MP=211.3-214.4° C., MS(M+H)=306.

reactant | 6-(2,4-Difluoro-phenoxy)-1H-pyrazolo[3,4-d]pyrimidin-3-ylamine | 0.646 mmol, 170 mg | FC1=C(OC2=NC=C3C(=N2)NN=C3N)C=CC(=C1)F | C11H7F2N5O
reactant | acetone | 12.9 mmol, 0.95 mL | CC(=O)C | C3H6O
reactant | THF | 6.5 mL | C1CCOC1 | C4H8O
reactant | NaBH(OAc)3 | 2.58 mmol, 547 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | ether | CCOCC | C4H10O
product | [6-(2,4-difluoro-phenoxy)-1H-pyrazolo[3,4-d]pyrimidin-3-yl]-isopropyl-amine | 105 mg | FC1=C(OC2=NC=C3C(=N2)NN=C3NC(C)C)C=CC(=C1)F | C14H13F2N5O
